US09428509B2
N-Methyl-4-(2-((1-methyl-1H-pyrazol-5-yl)amino)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzamide
A mixture of 4-(2-chloro-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide (1 equiv), 1-methyl-1H-pyrazol-5-amine (1 equiv), and cesium carbonate (3 equiv) in 1,4-dioxane (0.1 M) was degassed with N2 for 10 min. Then (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.2 equiv), tris(dibenzylideneacetone)dipalladium(0) (0.1 equiv), were added to this mixture. The mixture was stirred at 140° C. for 1.5 h. After cooling to room temperature the reaction mixture was purified using flash chromatography (0-100% ethyl acetate in hexane then 0-20% MeOH in DCM) to give the title compound (39.4% yield) as an off white solid. MS (ESI) m/z 578.5 [M+1]+.

reactant | 4-(2-chloro-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)OC2CCOCC2 | C25H33ClN4O4Si
reactant | 1-methyl-1H-pyrazol-5-amine | 1 equiv | CN1N=CC=C1N | C4H7N3
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.2 equiv | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | 1,4-dioxane | 0.1 M | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | MeOH | CO | CH4O
product | N-Methyl-4-(2-((1-methyl-1H-pyrazol-5-yl)amino)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzamide | 39.4% yield | CNC(C1=CC=C(C=C1)C1=CN(C=2N=C(N=C(C21)OC2CCOCC2)NC2=CC=NN2C)COCC[Si](C)(C)C)=O | C29H39N7O4Si
